US08193164B2
Bis-((R)-3-amino-pyrrolidin-1-yl)-methanone is prepared analogously to 1,3-bis-(4-amino-cyclohexyl)-urea (Intermediate IC) by replacing 4-amino-cyclohexyl)carbamic acid tert-butyl ester with (R)-pyrrolidin-3-yl-carbamic acid tert-butyl ester.

reactant | 1,3-bis-(4-amino-cyclohexyl)-urea | NC1CCC(CC1)NC(=O)NC1CCC(CC1)N | C13H26N4O
reactant | carbamic acid tert-butyl ester | C(C)(C)(C)OC(N)=O | C5H11NO2
reactant | (R)-pyrrolidin-3-yl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@H]1CNCC1)=O | C9H18N2O2
product | Bis-((R)-3-amino-pyrrolidin-1-yl)-methanone | N[C@H]1CN(CC1)C(=O)N1C[C@@H](CC1)N | C9H18N4O
